US04950674
1-[4-[3-[4-[2,2-Bis(4-fluorophenyl)-2-hydroxyethyl]-1- piperidinyl]propoxy]-3-methoxyphenyl]ethanone fumarate hydrate [1:1:1]
A mixture of 4.52 g (0.0143 mole) of α,α-bis(4-fluorophenyl)-4-piperidineethanol, 3.75 g (0.0155 mole) of 3-(4-acetyl-2-methoxyphenoxy)-1-chloropropane, 4.1 g (0.049 mole) of sodium bicarbonate, and 0.20 g (0.0012 mole) of potassium iodide in 300 ml of 1-butanol was heated at reflux for 8 hr. The solvent was removed in vacuo, and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution was treated with a small portion of activated charcoal and was dried over magnesium sulfate. The solvent was removed in vacuo to give the non-salt form of the title compound. This was converted to the fumarate salt and the salt was crystallized from methanol/ether to give 5.94 g (64.9%) of the title compound as a white, crystalline solid, mp 135°-136° C.

reactant | α,α-bis(4-fluorophenyl)-4-piperidineethanol | 0.0143 mole, 4.52 g | FC1=CC=C(C=C1)C(CC1CCNCC1)(O)C1=CC=C(C=C1)F | C19H21F2NO
reactant | 3-(4-acetyl-2-methoxyphenoxy)-1-chloropropane | 0.0155 mole, 3.75 g | C(C)(=O)C1=CC(=C(OCCCCl)C=C1)OC | C12H15ClO3
reactant | sodium bicarbonate | 0.049 mole, 4.1 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 0.0012 mole, 0.20 g | [I-].[K+]
solvent | 1-butanol | 300 ml | C(CCC)O | C4H10O
product | 1-[4-[3-[4-[2,2-Bis(4-fluorophenyl)-2-hydroxyethyl]-1- piperidinyl]propoxy]-3-methoxyphenyl]ethanone fumarate hydrate | O.C(\C=C\C(=O)O)(=O)O.FC1=CC=C(C=C1)C(CC1CCN(CC1)CCCOC1=C(C=C(C=C1)C(C)=O)OC)(O)C1=CC=C(C=C1)F | InChI=1S/C31H35F2NO4.C4H4O4.H2O/c1-22(35)24-4-13-29(30(20-24)37-2)38-19-3-16-34-17-14-23(15-18-34)21-31(36,25-5-9-27(32)10-6-25)26-7-11-28(33)12-8-26;5-3(6)1-2-4(7)8;/h4-13,20,23,36H,3,14-19,21H2,1-2H3;1-2H,(H,5,6)(H,7,8);1H2/b;2-1+;
